### PR TITLE
chore: replace `by exact` occurences

### PR DESCRIPTION
**Pull request by felixpernegger**
Basically: Replace `by exact abc` with `abc` whenever it works.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by b-mehta** [comment]
This is a nice idea! Let me quickly add that with the module system, some uses of `by exact` are necessary (that weren't in previous versions of Lean 4), and that `by exact` can sometimes change the elaboration order in helpful ways. So some of the `by exact` will be necessary. This isn't to discourage your PR, just to explain why some things might be happening!

**Comment by felixpernegger** [comment]
> This is a nice idea! Let me quickly add that with the module system, some uses of `by exact` are necessary (that weren't in previous versions of Lean 4), and that `by exact` can sometimes change the elaboration order in helpful ways. So some of the `by exact` will be necessary. This isn't to discourage your PR, just to explain why some things might be happening!

Thanks for hint, I expanded the scope now and all redundant "by exact" should b gone now.

**Comment by felixpernegger** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/9b5d56efcd4d79c50ab436a1b7af6c3c57fd16f5?reference=8ec10e9bfb355c50b78260497f4cd59c475000eb) for 9b5d56efcd4d79c50ab436a1b7af6c3c57fd16f5 against 8ec10e9bfb355c50b78260497f4cd59c475000eb are in. No significant results found. @felixpernegger

- ✅ `build//instructions`: **-39.9G** (**-0.02%**)

**Small changes (3✅, 10🟥)**

- 🟥 `build/module/Aesop.Script.Check//instructions`: **+27.8M** (**+1.53%**)
- 🟥 `build/module/Batteries.Data.DList.Basic//instructions`: **+27.9M** (**+1.63%**)
- 🟥 `build/module/Batteries.Data.List.Monadic//instructions`: **+19.5M** (**+1.53%**)
- 🟥 `build/module/Batteries.Data.MLList//instructions`: **+24.8M** (**+2.41%**)
- 🟥 `build/module/Batteries.Data.Rat//instructions`: **+21.0M** (**+2.26%**)
- 🟥 `build/module/Batteries.Data.String.AsciiCasing//instructions`: **+15.3M** (**+1.64%**)
- 🟥 `build/module/Batteries.Data.Vector.Monadic//instructions`: **+29.2M** (**+1.79%**)
- 🟥 `build/module/Batteries.Lean.IO.Process//instructions`: **+17.8M** (**+1.58%**)
- 🟥 `build/module/Mathlib.Algebra.Module.SpanRankOperations//instructions`: **+706.5M** (**+4.58%**)
- ✅ `build/module/Mathlib.Analysis.Complex.SqrtDeriv//instructions`: **-176.6M** (**-2.33%**)
- ✅ `build/module/Mathlib.Probability.Distributions.Gaussian.IsGaussianProcess.Def//instructions`: **-142.9M** (**-2.08%**)
- 🟥 `build/module/Mathlib.Topology.Algebra.Category.ProfiniteGrp.Basic//instructions`: **+1.5G** (**+3.30%**)
- ✅ `build/module/Mathlib//instructions`: **-213.1M** (**-1.89%**)

File: MathlibTest/StringDiagram.lean
Comment (b-mehta) [inline MathlibTest/StringDiagram.lean:1]: In this file, do the string diagrams still display after your changes? I wonder if some of the widget behaviour may have been tactic-mode specific

File: MathlibTest/IsBoundedDefault.lean [hunk 1]
```diff
@@ -9,7 +9,7 @@ variable {α : Type*} {f : Filter α} {u v : α → EReal} (h : u ≤ᶠ[f] v)
 example : limsup u f ≤ limsup v f := limsup_le_limsup h
 
 -- exact
-example : limsup u f ≤ limsup v f := by exact limsup_le_limsup h
+example : limsup u f ≤ limsup v f := limsup_le_limsup h
```
Comment (b-mehta) [inline MathlibTest/IsBoundedDefault.lean]: It looks like this is a test ensuring that autoparams apply when using `exact`, so this one should be kept

File: MathlibTest/ProdAssoc.lean [hunk 2]
```diff
@@ -3,8 +3,7 @@ import Mathlib.Tactic.ProdAssoc
 
 variable {α β γ δ : Type*}
 
-example : (α × β) × (γ × δ) ≃ α × (β × γ) × δ := by
-  exact (prod_assoc% : (α × β) × (γ × δ) ≃ α × (β × γ) × δ)
+example : (α × β) × (γ × δ) ≃ α × (β × γ) × δ := (prod_assoc% : (α × β) × (γ × δ) ≃ α × (β × γ) × δ)
```
Comment (b-mehta) [inline MathlibTest/ProdAssoc.lean]: This one might also be a test of what `prod_assoc%` does in tactic mode...

**Review by b-mehta — COMMENTED** [review]
I started reviewing from the bottom up, and I suspect that some of the changes to test files might not be good, since they're testing what happens specifically in `exact` in tactic mode

**Comment by JovanGerb** [comment]
There are a lot of places where you can remove brackets after removing `by exact`. Can you do this too?

**Comment by felixpernegger** [comment]
awaiting-author

File: Mathlib/Algebra/Group/Opposite.lean [hunk 3]
```diff
@@ -43,20 +43,20 @@ instance instAddCommSemigroup [AddCommSemigroup α] : AddCommSemigroup αᵐᵒ
   unop_injective.addCommSemigroup _ fun _ _ => rfl
 
 instance instAddZeroClass [AddZeroClass α] : AddZeroClass αᵐᵒᵖ :=
-  unop_injective.addZeroClass _ (by exact rfl) fun _ _ => rfl
+  unop_injective.addZeroClass _ (rfl) fun _ _ => rfl
 
 instance instAddMonoid [AddMonoid α] : AddMonoid αᵐᵒᵖ :=
-  unop_injective.addMonoid _ (by exact rfl) (fun _ _ => rfl) fun _ _ => rfl
+  unop_injective.addMonoid _ (rfl) (fun _ _ => rfl) fun _ _ => rfl
```
Comment (felixpernegger) [inline Mathlib/Algebra/Group/Opposite.lean]:
```suggestion
  unop_injective.addMonoid _ rfl (fun _ _ => rfl) fun _ _ => rfl
```

File: Mathlib/Algebra/Group/Opposite.lean [hunk 4]
```diff
@@ -43,20 +43,20 @@ instance instAddCommSemigroup [AddCommSemigroup α] : AddCommSemigroup αᵐᵒ
...
 
 instance instAddCommMonoid [AddCommMonoid α] : AddCommMonoid αᵐᵒᵖ :=
   unop_injective.addCommMonoid _ rfl (fun _ _ => rfl) fun _ _ => rfl
 
 instance instSubNegMonoid [SubNegMonoid α] : SubNegMonoid αᵐᵒᵖ :=
-  unop_injective.subNegMonoid _ (by exact rfl) (fun _ _ => rfl) (fun _ => rfl) (fun _ _ => rfl)
+  unop_injective.subNegMonoid _ (rfl) (fun _ _ => rfl) (fun _ => rfl) (fun _ _ => rfl)
```
Comment (felixpernegger) [inline Mathlib/Algebra/Group/Opposite.lean]:
```suggestion
  unop_injective.subNegMonoid _ rfl (fun _ _ => rfl) (fun _ => rfl) (fun _ _ => rfl)
```

File: Mathlib/Algebra/Group/Opposite.lean [hunk 5]
```diff
@@ -261,7 +261,7 @@ instance instCommSemigroup [CommSemigroup α] : CommSemigroup αᵃᵒᵖ :=
   unop_injective.commSemigroup _ fun _ _ => rfl
 
 instance instMulOneClass [MulOneClass α] : MulOneClass αᵃᵒᵖ :=
-  unop_injective.mulOneClass _ (by exact rfl) fun _ _ => rfl
+  unop_injective.mulOneClass _ (rfl) fun _ _ => rfl
```
Comment (felixpernegger) [inline Mathlib/Algebra/Group/Opposite.lean]:
```suggestion
  unop_injective.mulOneClass _ rfl fun _ _ => rfl
```

File: Mathlib/Algebra/Group/Opposite.lean [hunk 6]
```diff
@@ -274,21 +274,21 @@ theorem unop_pow {β} [Pow α β] (a : αᵃᵒᵖ) (b : β) : unop (a ^ b) = un
   rfl
 
 instance instMonoid [Monoid α] : Monoid αᵃᵒᵖ :=
-  unop_injective.monoid _ (by exact rfl) (fun _ _ => rfl) fun _ _ => rfl
+  unop_injective.monoid _ (rfl) (fun _ _ => rfl) fun _ _ => rfl
```
Comment (felixpernegger) [inline Mathlib/Algebra/Group/Opposite.lean]:
```suggestion
  unop_injective.monoid _ rfl (fun _ _ => rfl) fun _ _ => rfl
```

File: Mathlib/Algebra/Group/Opposite.lean [hunk 7]
```diff
@@ -274,21 +274,21 @@ theorem unop_pow {β} [Pow α β] (a : αᵃᵒᵖ) (b : β) : unop (a ^ b) = un
...
 
 instance instCommMonoid [CommMonoid α] : CommMonoid αᵃᵒᵖ :=
-  unop_injective.commMonoid _ (by exact rfl) (fun _ _ => rfl) fun _ _ => rfl
+  unop_injective.commMonoid _ (rfl) (fun _ _ => rfl) fun _ _ => rfl
```
Comment (felixpernegger) [inline Mathlib/Algebra/Group/Opposite.lean]:
```suggestion
  unop_injective.commMonoid _ rfl (fun _ _ => rfl) fun _ _ => rfl
```

File: Mathlib/Algebra/Group/Opposite.lean [hunk 8]
```diff
@@ -274,21 +274,21 @@ theorem unop_pow {β} [Pow α β] (a : αᵃᵒᵖ) (b : β) : unop (a ^ b) = un
...
 
 instance instDivInvMonoid [DivInvMonoid α] : DivInvMonoid αᵃᵒᵖ :=
-  unop_injective.divInvMonoid _ (by exact rfl) (fun _ _ => rfl) (fun _ => rfl) (fun _ _ => rfl)
+  unop_injective.divInvMonoid _ (rfl) (fun _ _ => rfl) (fun _ => rfl) (fun _ _ => rfl)
```
Comment (felixpernegger) [inline Mathlib/Algebra/Group/Opposite.lean]:
```suggestion
  unop_injective.divInvMonoid _ rfl (fun _ _ => rfl) (fun _ => rfl) (fun _ _ => rfl)
```

File: Mathlib/Algebra/Group/Opposite.lean [hunk 9]
```diff
@@ -274,21 +274,21 @@ theorem unop_pow {β} [Pow α β] (a : αᵃᵒᵖ) (b : β) : unop (a ^ b) = un
...
     (fun _ _ => rfl) fun _ _ => rfl
 
 instance instGroup [Group α] : Group αᵃᵒᵖ :=
-  unop_injective.group _ (by exact rfl) (fun _ _ => rfl) (fun _ => rfl) (fun _ _ => rfl)
+  unop_injective.group _ (rfl) (fun _ _ => rfl) (fun _ => rfl) (fun _ _ => rfl)
```
Comment (felixpernegger) [inline Mathlib/Algebra/Group/Opposite.lean]:
```suggestion
  unop_injective.group _ rfl (fun _ _ => rfl) (fun _ => rfl) (fun _ _ => rfl)
```

File: Mathlib/Algebra/Group/Opposite.lean [hunk 10]
```diff
@@ -274,21 +274,21 @@ theorem unop_pow {β} [Pow α β] (a : αᵃᵒᵖ) (b : β) : unop (a ^ b) = un
...
     (fun _ _ => rfl) fun _ _ => rfl
 
 instance instCommGroup [CommGroup α] : CommGroup αᵃᵒᵖ :=
-  unop_injective.commGroup _ (by exact rfl) (fun _ _ => rfl) (fun _ => rfl) (fun _ _ => rfl)
+  unop_injective.commGroup _ (rfl) (fun _ _ => rfl) (fun _ => rfl) (fun _ _ => rfl)
```
Comment (felixpernegger) [inline Mathlib/Algebra/Group/Opposite.lean]:
```suggestion
  unop_injective.commGroup _ rfl (fun _ _ => rfl) (fun _ => rfl) (fun _ _ => rfl)
```

File: Mathlib/CategoryTheory/Sites/Descent/Precoverage.lean [hunk 11]
```diff
@@ -189,7 +189,7 @@ lemma mor_unique ⦃i : ι⦄ {Z : C} (q : Z ⟶ X i)
   dsimp at this
   rw [pullFunctorObjHom_eq _ _ _ _ _ (q ≫ f i) (a₁ ≫ p' j₁) (a₂ ≫ p' j₂) rfl,
     pullFunctorObjHom_eq _ _ _ _ _ (q ≫ f i) (a₁ ≫ p' j₁) (a₂ ≫ p' j₂) rfl,
-    map_eq_pullHom _ _ _ _ (by exact rfl) rfl, map_eq_pullHom _ _ _ _ rfl rfl] at this
+    map_eq_pullHom _ _ _ _ (rfl) rfl, map_eq_pullHom _ _ _ _ rfl rfl] at this
```
Comment (felixpernegger) [inline Mathlib/CategoryTheory/Sites/Descent/Precoverage.lean]:
```suggestion
    map_eq_pullHom _ _ _ _ rfl rfl, map_eq_pullHom _ _ _ _ rfl rfl] at this
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean [hunk 12]
```diff
@@ -599,7 +598,7 @@ lemma induce_pair_connected_of_adj {u v : V} (huv : G.Adj u v) :
 lemma Subgraph.Connected.induce_verts {H : G.Subgraph} (h : H.Connected) :
     (G.induce H.verts).Connected := by
   rw [connected_induce_iff]
-  exact h.mono le_induce_top_verts (by exact rfl)
+  exact h.mono le_induce_top_verts (rfl)
```
Comment (felixpernegger) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean]:
```suggestion
  exact h.mono le_induce_top_verts rfl
```

File: Mathlib/Algebra/Homology/SpectralObject/EpiMono.lean [hunk 13]
```diff
@@ -258,7 +258,7 @@ lemma isIso_mapFourδ₂Toδ₁' (n₀ n₁ n₂ : ℤ)
     (hn₁ : n₀ + 1 = n₁ := by lia) (hn₂ : n₁ + 1 = n₂ := by lia) :
     IsIso (X'.mapFourδ₂Toδ₁' i₀ i₁ i₂ i₃ i₄ hi₀₁ hi₁₂ hi₂₃ hi₃₄ n₀ n₁ n₂ hn₁ hn₂) :=
   X'.isIso_map _ _ _ _ _ _ _ _ _ _
-    (by exact (inferInstanceAs (IsIso ((X'.H n₀).map (𝟙 _))))) h₁ h₂
+    ((inferInstanceAs (IsIso ((X'.H n₀).map (𝟙 _))))) h₁ h₂
```
Comment (felixpernegger) [inline Mathlib/Algebra/Homology/SpectralObject/EpiMono.lean]:
```suggestion
    (inferInstanceAs (IsIso ((X'.H n₀).map (𝟙 _)))) h₁ h₂
```

File: Mathlib/Algebra/Module/Submodule/Range.lean [hunk 14]
```diff
@@ -356,7 +356,7 @@ See also `Submodule.mapIic`. -/
 def MapSubtype.orderIso : Submodule R p ≃o { p' : Submodule R M // p' ≤ p } where
   toFun p' := ⟨map p.subtype p', map_subtype_le p _⟩
   invFun q := comap p.subtype q
-  left_inv p' := comap_map_eq_of_injective (by exact Subtype.val_injective) p'
+  left_inv p' := comap_map_eq_of_injective (Subtype.val_injective) p'
```
Comment (felixpernegger) [inline Mathlib/Algebra/Module/Submodule/Range.lean]:
```suggestion
  left_inv p' := comap_map_eq_of_injective Subtype.val_injective p'
```

File: Mathlib/Algebra/Module/SpanRankOperations.lean [hunk 15]
```diff
@@ -64,7 +64,7 @@ lemma TensorProduct.spanFinrank_top_eq_of_residueField (fg : N.FG) :
   let t := Function.surjInv (mk_surjective R N 𝓀 residue_surjective) '' s
   have ht₁ : mk R 𝓀 N 1 '' t = s := by rw [← Set.image_comp, Function.comp_surjInv, s.image_id]
   have ht₂ : span R t = ⊤ := by
-    rwa [← restrictScalars_eq_top_iff R, restrictScalars_span _ _ (by exact residue_surjective),
+    rwa [← restrictScalars_eq_top_iff R, restrictScalars_span _ _ (residue_surjective),
```
Comment (felixpernegger) [inline Mathlib/Algebra/Module/SpanRankOperations.lean]:
```suggestion
    rwa [← restrictScalars_eq_top_iff R, restrictScalars_span _ _ residue_surjective,
```

File: Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean [hunk 16]
```diff
@@ -195,7 +195,7 @@ noncomputable def isPointwiseRightKanExtensionAt (n : ℕ) :
       rw [dsimp% show op f = f.op from rfl]
       rw [spine_map_vertex, spine_spineToSimplex_apply, spine_vertex]
       let α : strArrowMk₂ f hi ⟶ strArrowMk₂ (⦋0⦌.const ⦋n⦌ (f.toOrderHom k)) :=
-        StructuredArrow.homMk ((Hom.tr (⦋0⦌.const _ (by exact k))).op) (by simp; rfl)
+        StructuredArrow.homMk ((Hom.tr (⦋0⦌.const _ (k))).op) (by simp; rfl)
```
Comment (felixpernegger) [inline Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean]:
```suggestion
        StructuredArrow.homMk ((Hom.tr (⦋0⦌.const _ k)).op) (by simp; rfl)
```

File: Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean [hunk 17]
```diff
@@ -578,7 +578,7 @@ private lemma bijective_image_objEquiv_toOrderHom_univ (m : ℕ) :
       (⟨Finset.image (objEquiv x).toOrderHom .univ, by
         dsimp
         rw [mem_nonDegenerate_iff_mono, SimplexCategory.mono_iff_injective] at hx
-        rw [Finset.card_image_of_injective _ (by exact hx), Finset.card_univ,
+        rw [Finset.card_image_of_injective _ (hx), Finset.card_univ,
```
Comment (felixpernegger) [inline Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean]:
```suggestion
        rw [Finset.card_image_of_injective _ hx, Finset.card_univ,
```

File: Mathlib/AlgebraicTopology/ExtraDegeneracy.lean [hunk 18]
```diff
@@ -416,7 +416,7 @@ noncomputable def homotopyEquiv [Preadditive C] [HasZeroObject C]
     HomotopyEquiv (AlgebraicTopology.AlternatingFaceMapComplex.obj (drop.obj X))
       ((ChainComplex.single₀ C).obj (point.obj X)) where
   hom := AlternatingFaceMapComplex.ε.app X
-  inv := (ChainComplex.fromSingle₀Equiv _ _).symm (by exact ed.s')
+  inv := (ChainComplex.fromSingle₀Equiv _ _).symm (ed.s')
```
Comment (felixpernegger) [inline Mathlib/AlgebraicTopology/ExtraDegeneracy.lean]:
```suggestion
  inv := (ChainComplex.fromSingle₀Equiv _ _).symm ed.s'
```

File: Mathlib/Analysis/Calculus/ContDiff/FaaDiBruno.lean [hunk 19]
```diff
@@ -382,7 +382,7 @@ def extendMiddle (c : OrderedFinpartition n) (k : Fin c.length) : OrderedFinpart
           simp only [cases_succ, comp_apply, succ_lt_succ_iff]
           exact c.emb_strictMono m (by simpa using h')
     · simp only [hm, ↓reduceDIte]
-      exact strictMono_succ.comp ((c.emb_strictMono m).comp (by exact fun ⦃a b⦄ h ↦ h))
+      exact strictMono_succ.comp ((c.emb_strictMono m).comp (fun ⦃a b⦄ h ↦ h))
```
Comment (felixpernegger) [inline Mathlib/Analysis/Calculus/ContDiff/FaaDiBruno.lean]:
```suggestion
      exact strictMono_succ.comp ((c.emb_strictMono m).comp fun ⦃a b⦄ h ↦ h)
```

File: Mathlib/Analysis/Calculus/FDeriv/Analytic.lean [hunk 20]
```diff
@@ -594,7 +594,7 @@ theorem changeOrigin_toFormalMultilinearSeries [DecidableEq ι] :
     simp_rw [Fintype.sum_empty, changeOriginSeries_support _ (this _), zero_apply _, tsum_zero]; rfl
   rw [tsum_eq_single (Fintype.card ι - 1), changeOriginSeries]; swap
   · intro m hm
-    rw [Ne, eq_tsub_iff_add_eq_of_le (by exact Fintype.card_pos), add_comm] at hm
+    rw [Ne, eq_tsub_iff_add_eq_of_le (Fintype.card_pos), add_comm] at hm
```
Comment (felixpernegger) [inline Mathlib/Analysis/Calculus/FDeriv/Analytic.lean]:
```suggestion
    rw [Ne, eq_tsub_iff_add_eq_of_le Fintype.card_pos, add_comm] at hm
```

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/NonUnital.lean [hunk 21]
```diff
@@ -471,7 +471,7 @@ lemma cfcₙ_comp (g f : R → R) (a : A)
   have := hg.comp hf <| (σₙ R a).mapsTo_image f
   have sp_eq :
       σₙ R (cfcₙHom (show p a from ha) ⟨ContinuousMap.mk _ hf.restrict, hf0⟩) = f '' (σₙ R a) := by
-    rw [cfcₙHom_map_quasispectrum (by exact ha) _]
+    rw [cfcₙHom_map_quasispectrum (ha) _]
```
Comment (felixpernegger) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/NonUnital.lean]:
```suggestion
    rw [cfcₙHom_map_quasispectrum ha _]
```

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Unital.lean [hunk 22]
```diff
@@ -606,7 +606,7 @@ lemma cfc_comp (g f : R → R) (a : A) (ha : p a := by cfc_tac)
   have := hg.comp hf <| (spectrum R a).mapsTo_image f
   have sp_eq : spectrum R (cfcHom (show p a from ha) (ContinuousMap.mk _ hf.restrict)) =
       f '' (spectrum R a) := by
-    rw [cfcHom_map_spectrum (by exact ha) _]
+    rw [cfcHom_map_spectrum (ha) _]
```
Comment (felixpernegger) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Unital.lean]:
```suggestion
    rw [cfcHom_map_spectrum ha _]
```

File: Mathlib/CategoryTheory/Limits/Final.lean [hunk 23]
```diff
@@ -1090,7 +1090,7 @@ instance Grothendieck.final_pre [hG : Final G] : (Grothendieck.pre F G).Final :=
   rintro ⟨d, f⟩
   let ⟨u, c, g⟩ : Nonempty (StructuredArrow d G) := inferInstance
   letI : Nonempty (StructuredArrow ⟨d, f⟩ (pre F G)) :=
-    ⟨u, ⟨c, (F.map g).toFunctor.obj f⟩, ⟨(by exact g), (by exact 𝟙 _)⟩⟩
+    ⟨u, ⟨c, (F.map g).toFunctor.obj f⟩, ⟨(g), (𝟙 _)⟩⟩
```
Comment (felixpernegger) [inline Mathlib/CategoryTheory/Limits/Final.lean]:
```suggestion
    ⟨u, ⟨c, (F.map g).toFunctor.obj f⟩, ⟨g, 𝟙 _⟩⟩
```

File: Mathlib/Data/DFinsupp/Sigma.lean [hunk 24]
```diff
@@ -140,7 +140,7 @@ theorem sigmaUncurry_smul [Monoid γ] [∀ i j, AddMonoid (δ i j)]
 @[simp]
 theorem sigmaUncurry_single [∀ i j, Zero (δ i j)] [∀ i, DecidableEq (α i)]
     (i) (j : α i) (x : δ i j) :
-    sigmaUncurry (single i (single j x : Π₀ j : α i, δ i j)) = single ⟨i, j⟩ (by exact x) := by
+    sigmaUncurry (single i (single j x : Π₀ j : α i, δ i j)) = single ⟨i, j⟩ (x) := by
```
Comment (felixpernegger) [inline Mathlib/Data/DFinsupp/Sigma.lean]:
```suggestion
    sigmaUncurry (single i (single j x : Π₀ j : α i, δ i j)) = single ⟨i, j⟩ x := by
```

File: Mathlib/Data/Nat/Digits/Lemmas.lean [hunk 25]
```diff
@@ -536,6 +536,6 @@ The formula for the sum of the sum of the digits in base `b` over the natural in
 theorem Nat.sum_sum_digits_eq {b : ℕ} (hb : 1 < b) (l : ℕ) :
     ∑ x ∈ Finset.range (b ^ l), (b.digits x).sum = l * b ^ (l - 1) * b.choose 2 := by
   rw [← List.sum_fixedLengthDigits_sum hb]
-  refine (Finset.sum_nbij (ofDigits b) (by exact (bijOn_ofDigits' hb l).1)
+  refine (Finset.sum_nbij (ofDigits b) ((bijOn_ofDigits' hb l).1)
```
Comment (felixpernegger) [inline Mathlib/Data/Nat/Digits/Lemmas.lean]:
```suggestion
  refine (Finset.sum_nbij (ofDigits b) (bijOn_ofDigits' hb l).1
```

File: Mathlib/FieldTheory/CardinalEmb.lean [hunk 26]
```diff
@@ -296,7 +296,7 @@ def equivLim : (E⟮<i⟯ →ₐ[F] Ē) ≃ limit (embFunctor F E) i where
     · ext ⟨x, hx⟩
       rw [← iSup_filtration hi, mem_toSubalgebra, ← SetLike.mem_coe,
           coe_iSup_of_directed directed_filtration, mem_iUnion] at hx
-      rw [Subalgebra.iSupLift_of_mem _ _ (by exact hx.choose_spec)]; rfl
+      rw [Subalgebra.iSupLift_of_mem _ _ (hx.choose_spec)]; rfl
```
Comment (felixpernegger) [inline Mathlib/FieldTheory/CardinalEmb.lean]:
```suggestion
      rw [Subalgebra.iSupLift_of_mem _ _ hx.choose_spec]; rfl
```

File: Mathlib/LinearAlgebra/Orientation.lean [hunk 27]
```diff
@@ -106,7 +106,7 @@ end Reindex
 instance (priority := 100) IsEmpty.oriented [IsEmpty ι] : Module.Oriented R M ι where
   positiveOrientation :=
     rayOfNeZero R (AlternatingMap.constLinearEquivOfIsEmpty 1) <|
-      AlternatingMap.constLinearEquivOfIsEmpty.injective.ne (by exact one_ne_zero)
+      AlternatingMap.constLinearEquivOfIsEmpty.injective.ne (one_ne_zero)
```
Comment (felixpernegger) [inline Mathlib/LinearAlgebra/Orientation.lean]:
```suggestion
      AlternatingMap.constLinearEquivOfIsEmpty.injective.ne one_ne_zero
```

File: Mathlib/LinearAlgebra/Ray.lean [hunk 28]
```diff
@@ -461,7 +461,7 @@ theorem sameRay_of_mem_orbit {v₁ v₂ : M} (h : v₁ ∈ MulAction.orbit (Unit
 theorem units_inv_smul (u : Rˣ) (v : Module.Ray R M) : u⁻¹ • v = u • v :=
   have := mul_self_pos.2 u.ne_zero
   calc
-    u⁻¹ • v = (u * u) • u⁻¹ • v := Eq.symm <| (u⁻¹ • v).units_smul_of_pos _ (by exact this)
+    u⁻¹ • v = (u * u) • u⁻¹ • v := Eq.symm <| (u⁻¹ • v).units_smul_of_pos _ (this)
```
Comment (felixpernegger) [inline Mathlib/LinearAlgebra/Ray.lean]:
```suggestion
    u⁻¹ • v = (u * u) • u⁻¹ • v := Eq.symm <| (u⁻¹ • v).units_smul_of_pos _ this
```

File: Mathlib/MeasureTheory/Measure/Lebesgue/Integral.lean [hunk 29]
```diff
@@ -97,7 +97,7 @@ theorem integral_comp_abs {f : ℝ → ℝ} :
     ∫ x, f |x| = 2 * ∫ x in Ioi (0 : ℝ), f x := by
   have eq : ∫ (x : ℝ) in Ioi 0, f |x| = ∫ (x : ℝ) in Ioi 0, f x := by
     refine setIntegral_congr_fun measurableSet_Ioi (fun _ hx => ?_)
-    rw [abs_eq_self.mpr (le_of_lt (by exact hx))]
+    rw [abs_eq_self.mpr (le_of_lt (hx))]
```
Comment (felixpernegger) [inline Mathlib/MeasureTheory/Measure/Lebesgue/Integral.lean]:
```suggestion
    rw [abs_eq_self.mpr (le_of_lt hx)]
```

File: Mathlib/MeasureTheory/Measure/Lebesgue/Integral.lean [hunk 30]
```diff
@@ -114,7 +114,7 @@ theorem integral_comp_abs {f : ℝ → ℝ} :
         congr! 1
         rw [← neg_zero, ← integral_comp_neg_Iic, neg_zero]
         refine setIntegral_congr_fun measurableSet_Iic (fun _ hx => ?_)
-        rw [abs_eq_neg_self.mpr (by exact hx)]
+        rw [abs_eq_neg_self.mpr (hx)]
```
Comment (felixpernegger) [inline Mathlib/MeasureTheory/Measure/Lebesgue/Integral.lean]:
```suggestion
        rw [abs_eq_neg_self.mpr hx]
```

File: Mathlib/MeasureTheory/PiSystem.lean [hunk 31]
```diff
@@ -223,11 +223,11 @@ theorem isPiSystem_Ico (f : ι → α) (g : ι' → α) :
 
 theorem isPiSystem_Icc_mem (s t : Set α) :
     IsPiSystem { S | ∃ᵉ (l ∈ s) (u ∈ t), l ≤ u ∧ Icc l u = S } :=
-  isPiSystem_Ixx_mem (Ixx := Icc) nonempty_Icc.1 (by exact Icc_inter_Icc) s t
+  isPiSystem_Ixx_mem (Ixx := Icc) nonempty_Icc.1 (Icc_inter_Icc) s t
```
Comment (felixpernegger) [inline Mathlib/MeasureTheory/PiSystem.lean]:
```suggestion
  isPiSystem_Ixx_mem (Ixx := Icc) nonempty_Icc.1 Icc_inter_Icc s t
```

File: Mathlib/MeasureTheory/PiSystem.lean [hunk 32]
```diff
@@ -223,11 +223,11 @@ theorem isPiSystem_Ico (f : ι → α) (g : ι' → α) :
...
 
 theorem isPiSystem_Icc (f : ι → α) (g : ι' → α) :
     @IsPiSystem α { S | ∃ i j, f i ≤ g j ∧ Icc (f i) (g j) = S } :=
-  isPiSystem_Ixx (Ixx := Icc) nonempty_Icc.1 (by exact Icc_inter_Icc) f g
+  isPiSystem_Ixx (Ixx := Icc) nonempty_Icc.1 (Icc_inter_Icc) f g
```
Comment (felixpernegger) [inline Mathlib/MeasureTheory/PiSystem.lean]:
```suggestion
  isPiSystem_Ixx (Ixx := Icc) nonempty_Icc.1 Icc_inter_Icc f g
```

File: Mathlib/NumberTheory/NumberField/Cyclotomic/Basic.lean [hunk 33]
```diff
@@ -207,7 +207,7 @@ lemma card_quotient_toInteger_sub_one [NumberField K] {k : ℕ} [NeZero k]
 
 lemma toInteger_isPrimitiveRoot {k : ℕ} [NeZero k] (hζ : IsPrimitiveRoot ζ k) :
     IsPrimitiveRoot hζ.toInteger k :=
-  IsPrimitiveRoot.of_map_of_injective (by exact hζ) RingOfIntegers.coe_injective
+  IsPrimitiveRoot.of_map_of_injective (hζ) RingOfIntegers.coe_injective
```
Comment (felixpernegger) [inline Mathlib/NumberTheory/NumberField/Cyclotomic/Basic.lean]:
```suggestion
  IsPrimitiveRoot.of_map_of_injective hζ RingOfIntegers.coe_injective
```

File: Mathlib/Order/DirectedInverseSystem.lean [hunk 34]
```diff
@@ -436,8 +436,8 @@ theorem unique_pEquivOn (hs : IsLowerSet s) {e₁ e₂ : PEquivOn f equivSucc s}
     obtain rfl | hj := ((lt_succ_iff_of_not_isMax nmax).mp hj).eq_or_lt
     · exact (compat₁ _ nmax x).trans (compat₂ _ nmax x).symm
     have hi : i ∈ s := hs (le_succ i) hi
-    rw [piLTProj_intro (f := e₁ _ x) (le_succ i) (by exact hj),
-        ← nat₁ _ hi (by exact le_succ i), ih, nat₂ _ hi (by exact le_succ i)]
+    rw [piLTProj_intro (f := e₁ _ x) (le_succ i) (hj),
```
Comment (felixpernegger) [inline Mathlib/Order/DirectedInverseSystem.lean]:
```suggestion
    rw [piLTProj_intro (f := e₁ _ x) (le_succ i) hj,
```

File: Mathlib/Order/DirectedInverseSystem.lean [hunk 35]
```diff
@@ -472,7 +472,7 @@ noncomputable def pEquivOnGlue : PEquivOn f equivSucc (Iio i) where
       pEquivOn_apply_eq ((isLowerSet_Iio _).inter <| isLowerSet_Iio _)⟩
   nat j k hj hk h := by rw [piLTLim_symm_apply]; exacts [(e _).nat _ _ _, h.trans_lt (hi.mid _).2.1]
   compat hj := have k := hi.mid hj
-    by rw [piLTLim_symm_apply hi ⟨_, k.2.2⟩ (by exact k.2.1)]; apply (e _).compat
+    by rw [piLTLim_symm_apply hi ⟨_, k.2.2⟩ (k.2.1)]; apply (e _).compat
```
Comment (felixpernegger) [inline Mathlib/Order/DirectedInverseSystem.lean]:
```suggestion
    by rw [piLTLim_symm_apply hi ⟨_, k.2.2⟩ k.2.1]; apply (e _).compat
```

File: Mathlib/Order/RelSeries.lean [hunk 36]
```diff
@@ -306,7 +306,7 @@ def append (p q : RelSeries r) (connect : p.last ~[r] q.head) : RelSeries r wher
           i.2.trans <| by lia⟩ := by
         ext; dsimp [x, y]; rw [Nat.add_sub_cancel']; exact hi
       have hy : y = Fin.natAdd _ ⟨i - p.length, Nat.sub_lt_left_of_lt_add (le_of_lt hi)
-          (by exact i.2)⟩ := by
+          (i.2)⟩ := by
```
Comment (felixpernegger) [inline Mathlib/Order/RelSeries.lean]:
```suggestion
          i.2⟩ := by
```

File: Mathlib/RingTheory/Jacobson/Radical.lean [hunk 37]
```diff
@@ -160,7 +160,7 @@ theorem coe_jacobson_quotient (I : Ideal R) [I.IsTwoSided] :
 
 theorem jacobson_quotient_of_le {I : Ideal R} [I.IsTwoSided] (le : I ≤ jacobson R) :
     jacobson (R ⧸ I) = Submodule.map (Ideal.Quotient.mk I).toSemilinearMap (jacobson R) :=
-  .symm <| Module.map_jacobson_of_ker_le (by exact Ideal.Quotient.mk_surjective) <| by
+  .symm <| Module.map_jacobson_of_ker_le (Ideal.Quotient.mk_surjective) <| by
```
Comment (felixpernegger) [inline Mathlib/RingTheory/Jacobson/Radical.lean]:
```suggestion
  .symm <| Module.map_jacobson_of_ker_le Ideal.Quotient.mk_surjective <| by
```

File: Mathlib/RingTheory/Smooth/Fiber.lean [hunk 38]
```diff
@@ -104,7 +104,7 @@ private lemma FormallySmooth.of_formallySmooth_residueField_tensor_aux
     exact .equiv e₁.symm
   have h₃ : 𝓂[Sp] ≤ RingHom.ker ψ := by
     intro x hx
-    obtain ⟨x, rfl⟩ := TensorProduct.mk_surjective _ _ _ (by exact residue_surjective) x
+    obtain ⟨x, rfl⟩ := TensorProduct.mk_surjective _ _ _ (residue_surjective) x
```
Comment (felixpernegger) [inline Mathlib/RingTheory/Smooth/Fiber.lean]:
```suggestion
    obtain ⟨x, rfl⟩ := TensorProduct.mk_surjective _ _ _ residue_surjective x
```

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 39]
```diff
@@ -316,9 +316,9 @@ lemma RelCWComplex.isClosed_cellFrontier [RelCWComplex C D] [T2Space X] {n : ℕ
 lemma RelCWComplex.closure_openCell_eq_closedCell [RelCWComplex C D] [T2Space X] {n : ℕ}
     {j : cell C n} : closure (openCell n j) = closedCell n j := by
   apply subset_antisymm (isClosed_closedCell.closure_subset_iff.2 (openCell_subset_closedCell n j))
-  rw [closedCell, ← closure_ball 0 (by exact one_ne_zero)]
+  rw [closedCell, ← closure_ball 0 (one_ne_zero)]
   apply ContinuousOn.image_closure
-  rw [closure_ball 0 (by exact one_ne_zero)]
+  rw [closure_ball 0 (one_ne_zero)]
```
Comment (felixpernegger) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean]:
```suggestion
  rw [closure_ball 0 one_ne_zero]
```

File: Mathlib/Topology/MetricSpace/PartitionOfUnity.lean [hunk 40]
```diff
@@ -60,7 +60,7 @@ theorem eventually_nhds_zero_forall_closedEBall_subset (hK : ∀ i, IsClosed (K
   calc
     edist z x ≤ edist z p.2 + edist p.2 x := edist_triangle _ _ _
     _ ≤ p.1 + (R - p.1) := add_le_add hz <| le_trans hp.2 <| tsub_le_tsub_left hp.1.out.le _
-    _ = R := add_tsub_cancel_of_le (lt_trans (by exact hp.1) hrR).le
+    _ = R := add_tsub_cancel_of_le (lt_trans (hp.1) hrR).le
```
Comment (felixpernegger) [inline Mathlib/Topology/MetricSpace/PartitionOfUnity.lean]:
```suggestion
    _ = R := add_tsub_cancel_of_le (lt_trans hp.1 hrR).le
```

File: Mathlib/Topology/Separation/Hausdorff.lean [hunk 41]
```diff
@@ -447,7 +447,7 @@ instance : T2Space (T2Quotient X) := by
   rintro ⟨x⟩ ⟨y⟩ (h : ¬ T2Quotient.mk x = T2Quotient.mk y)
   obtain ⟨s, hs, hsxy⟩ : ∃ s, T2Space (Quotient s) ∧ Quotient.mk s x ≠ Quotient.mk s y := by
     simpa [T2Quotient.mk_eq, Quotient.eq] using h
-  exact separated_by_continuous (continuous_map_sInf (by exact hs)) hsxy
+  exact separated_by_continuous (continuous_map_sInf (hs)) hsxy
```
Comment (felixpernegger) [inline Mathlib/Topology/Separation/Hausdorff.lean]:
```suggestion
  exact separated_by_continuous (continuous_map_sInf hs) hsxy
```

**Review by felixpernegger — COMMENTED** [review]
.

**Comment by felixpernegger** [comment]
-awaiting-author

**Comment by felixpernegger** [comment]
I just removed all changes from MathlibTest to be sure

File: Mathlib/Algebra/Group/Opposite.lean [hunk 42]
```diff
@@ -43,20 +43,20 @@ instance instAddCommSemigroup [AddCommSemigroup α] : AddCommSemigroup αᵐᵒ
   unop_injective.addCommSemigroup _ fun _ _ => rfl
 
 instance instAddZeroClass [AddZeroClass α] : AddZeroClass αᵐᵒᵖ :=
-  unop_injective.addZeroClass _ (by exact rfl) fun _ _ => rfl
+  unop_injective.addZeroClass _ (rfl) fun _ _ => rfl
```
Comment (JovanGerb) [inline Mathlib/Algebra/Group/Opposite.lean]: It looks like you missed a few

File: Mathlib/Algebra/Group/Opposite.lean [hunk 43]
```diff
@@ -43,20 +43,20 @@ instance instAddCommSemigroup [AddCommSemigroup α] : AddCommSemigroup αᵐᵒ
...
   unop_injective.addCommMonoid _ rfl (fun _ _ => rfl) fun _ _ => rfl
 
 instance instSubNegMonoid [SubNegMonoid α] : SubNegMonoid αᵐᵒᵖ :=
-  unop_injective.subNegMonoid _ (by exact rfl) (fun _ _ => rfl) (fun _ => rfl) (fun _ _ => rfl)
+  unop_injective.subNegMonoid _ rfl (fun _ _ => rfl) (fun _ => rfl) (fun _ _ => rfl)
     (fun _ _ => rfl) fun _ _ => rfl
 
 instance instAddGroup [AddGroup α] : AddGroup αᵐᵒᵖ :=
-  unop_injective.addGroup _ (by exact rfl) (fun _ _ => rfl) (fun _ => rfl) (fun _ _ => rfl)
+  unop_injective.addGroup _ (rfl) (fun _ _ => rfl) (fun _ => rfl) (fun _ _ => rfl)
```
Comment (JovanGerb) [inline Mathlib/Algebra/Group/Opposite.lean]: .

File: Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean [hunk 44]
```diff
@@ -1247,19 +1247,19 @@ meta def evalNNRealRPow : NormNumExt where eval {u αR} e := do
   match u, αR, e with
   | 0, ~q(ℝ≥0), ~q(($a : ℝ≥0)^($b : ℝ)) =>
     match ← derive b with
-    | .isNat sβ nb pb =>
+    | .isNat _ nb pb =>
```
Comment (JovanGerb) [inline Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean]: What happened in this file? It looks like you are not removing `by exact` here. Could you revert it if it is not needed?

File: Mathlib/Analysis/SpecialFunctions/Pow/Real.lean [hunk 45]
```diff
@@ -1114,19 +1114,19 @@ meta def evalRPow : NormNumExt where eval {u αR} e := do
   match u, αR, e with
   | 0, ~q(ℝ), ~q(($a : ℝ)^($b : ℝ)) =>
     match ← derive b with
-    | .isNat sβ nb pb =>
+    | .isNat _ nb pb =>
```
Comment (JovanGerb) [inline Mathlib/Analysis/SpecialFunctions/Pow/Real.lean]: Idem

File: Mathlib/CategoryTheory/Abelian/GrothendieckCategory/ColimCoyoneda.lean [hunk 46]
```diff
@@ -89,8 +89,7 @@ lemma hf (j : Under j₀) :
 set_option backward.defeqAttrib.useBackward true in
 variable {y} in
 include hc hy in
-lemma epi_f [IsFiltered J] : Epi (f y) := by
-  exact (colim.exact_mapShortComplex
+lemma epi_f [IsFiltered J] : Epi (f y) := (colim.exact_mapShortComplex
```
Comment (JovanGerb) [inline Mathlib/CategoryTheory/Abelian/GrothendieckCategory/ColimCoyoneda.lean]: This is now weirdly formatted. Could you keep the newline?

File: Mathlib/Data/Rat/Floor.lean [hunk 47]
```diff
@@ -314,11 +314,11 @@ meta def evalRound : NormNumExt where eval {u αZ} e := do
   | 0, ~q(ℤ), ~q(@round $α $instRing $instLinearOrder $instFloorRing $x) =>
     match ← derive x with
     | .isBool .. => failure
-    | .isNat sα nb pb => do
+    | .isNat _ nb pb => do
```
Comment (JovanGerb) [inline Mathlib/Data/Rat/Floor.lean]: Here as well

File: Mathlib/Data/Seq/Basic.lean [hunk 48]
```diff
@@ -735,8 +735,7 @@ theorem all_cons {p : α → Prop} {hd : α} {tl : Seq α} (h_hd : p hd) (h_tl :
 
 theorem all_get {p : α → Prop} {s : Seq α} (h : ∀ x ∈ s, p x) {n : ℕ} {x : α}
     (hx : s.get? n = .some x) :
-    p x := by
-  exact h _ (get?_mem hx)
+    p x := h _ (get?_mem hx)
```
Comment (JovanGerb) [inline Mathlib/Data/Seq/Basic.lean]: The indentation is a bit weird. Could you keep the newline?

**Review by JovanGerb — COMMENTED** [review]
I only went through part of the diff so far.

What is your reason to change some binder names to `_`?

**Comment by felixpernegger** [comment]
> What is your reason to change some binder names to `_`?

By accident, no reason

**Comment by felixpernegger** [comment]
-awaiting-author

File: Mathlib/Algebra/Homology/Localization.lean [hunk 49]
```diff
@@ -271,8 +271,7 @@ lemma ComplexShape.quotient_isLocalization :
 
 lemma ComplexShape.QFactorsThroughHomotopy_of_exists_prev [CategoryWithHomology C] :
     c.QFactorsThroughHomotopy C where
-  areEqualizedByLocalization {K L f g} h := by
-    exact h.map_eq_of_inverts_homotopyEquivalences hc _
+  areEqualizedByLocalization {_ _ _ _} h := h.map_eq_of_inverts_homotopyEquivalences hc _
```
Comment (JovanGerb) [inline Mathlib/Algebra/Homology/Localization.lean:274]: Is the removal of the names intentional?

Comment (JovanGerb) [inline Mathlib/Algebra/Homology/Localization.lean:274]: Currently, this `{_ _ _ _}` is a no-op. Can you remove it?
